US08497264B2
To a suspension of 2-(5-amino-7-bromo-3-chloro-5H-chromeno[2,3-c]pyridin-5-yl)propan-1-ol (0.85 g, 2.300 mmol) in EtOH (10 mL) was added anhydrous sodium acetate (0.377 g, 4.60 mmol) followed by the drop wise addition of cyanogen bromide (3.0M in CH2Cl2; 0.920 mL, 2.76 mmol). The suspension was stirred at RT for 48 h. Additional cyanogen bromide (0.8 mL, 0.6 eq) and NaOAc (180 mg, 1.0 eq) were added. The reaction mixture was allowed to stir for 3 days at RT. The reaction mixture was concentrated under reduced pressure, washed with water and extracted with DCM. The combined organic layers were dried over MgSO4 and azeotropically dried with toluene. A white solid was obtained which was suspended in DCM (15 mL). Upon dropwise addition of TFA (2 mL) the reaction mixture turned clear and yellow. The resulting mixture was stirred at RT for 20 min. The solvent was removed under reduced pressure and aqueous saturated NaHCO3 solution and CH2Cl2 were added. The suspension was filtered and 7-bromo-3-chloro-5′-methyl-5′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,4′-[1,3]oxazin]-2′-amine was obtained as a white solid (305 mg). The filtrate was transferred into a separatory funnel. The organic phase was separated and dried over MgSO4. The solvent was removed under reduced pressure and the residue was purified by flash chromatography to obtain additional 7-bromo-3-chloro-5′-methyl-5′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,4′-[1,3]oxazin]-2′-amine (300 mg).

reactant | 2-(5-amino-7-bromo-3-chloro-5H-chromeno[2,3-c]pyridin-5-yl)propan-1-ol | 2.300 mmol, 0.85 g | NC1(C2=CC(=CC=C2OC=2C=NC(=CC21)Cl)Br)C(CO)C | C15H14BrClN2O2
reactant | sodium acetate | 4.60 mmol, 0.377 g | C(C)(=O)[O-].[Na+]
reactant | cyanogen bromide | 2.76 mmol, 3.0M, 0.920 mL | N#CBr | CBrN
reactant | cyanogen bromide | 0.8 mL, 0.6 eq | N#CBr | CBrN
reactant | NaOAc | 180 mg, 1.0 eq | CC(=O)[O-].[Na+]
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 7-bromo-3-chloro-5′-methyl-5′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,4′-[1,3]oxazin]-2′-amine | BrC=1C=C2C(=CC1)OC=1C=NC(=CC1C21N=C(OCC1C)N)Cl | C16H13BrClN3O2
